US06706663B2
Preparation of 1-Methyl-3-[3-[4-[(methylsulfinyl)methyl]-1,3-dioxolan-2-yl]-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil
A mixture of 1-methyl-3-[3-[4-[(methylthio)methyl]-1,3-dioxolan-2-yl]-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil (0.970 g, 21.1 mmol), m-chloroperbenzoic acid (72%, 0.500 g, 21.1 mmol) and methylene chloride is stirred one hour at room temperature and concentrated in vacuo. The residue is taken up in ethyl acetate and washed twice with 5% aqueous sodium carbonate and once with brine. The organic layer is dried over anhydrous magnesium sulfate and concentrated in vacuo to a white solid, which is chromatographed on silica gel with ethanol-ethyl acetate to afford the title compound as a white solid (0.700 g, 70.0%, mp 72-75° C.) which is identified by IR and NMR spectral analysis.

reactant | 1-methyl-3-[3-[4-[(methylthio)methyl]-1,3-dioxolan-2-yl]-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil | 21.1 mmol, 0.970 g | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C=1C=CC2=C(C(=NS2)C2OCC(O2)CSC)C1 | C18H16F3N3O4S2
reactant | m-chloroperbenzoic acid | 21.1 mmol, 0.500 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-Methyl-3-[3-[4-[(methylsulfinyl)methyl]-1,3-dioxolan-2-yl]-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)uracil | 0.700 g, 70.0% | CN1C(=O)N(C(=O)C=C1C(F)(F)F)C=1C=CC2=C(C(=NS2)C2OCC(O2)CS(=O)C)C1 | C18H16F3N3O5S2
